US04206120
(Z)-3-Carbmethoxymethylene-4-oxa-1-azabicyclo[3.2.0]heptan-7-one
Methyl 4-(4-chloro-2-oxoazetidin-1-yl)-3-oxobutyrate (1.1 g, 5 mmole) was dissolved in a mixture of diethyl ether (20 ml) and methylene dichloride (30 ml). The solution was stirred at -30° C. with exclusion of moisture while triethylamine (510 mg, 5 mmole) in diethyl ether (5 ml) was added dropwise over 3 minutes. The mixture was then warmed to 0° C. and stirred for a further 40 minutes. The mixture was diluted with ethyl acetate (100 ml) and the solution was washed twice with 5% sodium chloride solution. The solution was dried (magnesium sulphate) and the solvent was evaporated to yield a yellow gum (350 mg). The gum was chromatographed on silica gel (30 g) using ethyl acetate/petroleum ether to give, in order of elution, (Z)-carbmethoxychloromethylene-4-oxa-1-azabicyclo[3.2.0]heptan-7-one (5 mg), (E)-carbmethoxymethylene-4-oxa-1-azabicyclo[3.2.0]heptan-7-one (73 mg) and (Z)-carbmethoxymethylene-4-oxa- 1-azabicyclo[3.2.0]heptan-7-one (65 mg). The latter compound was obtained as colourless prisms, m.p. 168°-169° C., from ethyl acetate/petroleum ether (b.p. 60°-80° C.). (Found: M+, 183.05334. C8H9NO4 requires 183.05315).

reactant | Methyl 4-(4-chloro-2-oxoazetidin-1-yl)-3-oxobutyrate | 5 mmole, 1.1 g | ClC1CC(N1CC(CC(=O)OC)=O)=O | C8H10ClNO4
reactant | triethylamine | 5 mmole, 510 mg | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | methylene dichloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (Z)-3-Carbmethoxymethylene-4-oxa-1-azabicyclo[3.2.0]heptan-7-one | 350 mg | C(=O)(OC)\C=C/1\CN2C(CC2O1)=O | C8H9NO4
